US08541457B2
Synthesis of 2-(2,5-Difluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 2,5-difluorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 86% yield; 1H NMR (DMSO-d6, 300 MHz) δ 8.63 (t, J=5.8 Hz, 1H), 7.60-7.17 (m, 8H), 4.36 (d, J=5.8 Hz, 2H), 2.51 (s, 3H); MS (ES+) m/z 388.2 (M+1).

reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(2,5-Difluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 86% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=C(C=CC(=C1)F)F)=O)C | C19H15F2N3O2S
